US04132710
1-Methyl-4-(3-methylphenyl)-4-piperidinol
To a layer of magnesium (24.3 g) covered with dry ether, a solution of m-bromotoluene (171 g, 1 mole) in dry ether (500 ml) is added under an atmosphere of nitrogen. After the addition, the mixture is heated at reflux for an hour, cooled to 0° C. and a solution of 1-methyl-4-piperidone (108 g, 950 mmoles) is added dropwise to the mechanically stirred mixture. The mixture is heated at reflux for 3 hours and allowed to stand at room temperature overnight. The suspension is cooled (<5°), 10% ammonium chloride solution is added and the mixture is extracted with ether. The combined extracts are dried (MgSO4) and evaporated. The residue is crystallized from hexane to give the title compound, mp 86°-90° C.

reactant | magnesium | 24.3 g | [Mg] | Mg
reactant | m-bromotoluene | 1 mole, 171 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | 1-methyl-4-piperidone | 950 mmoles, 108 g | CN1CCC(CC1)=O | C6H11NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-Methyl-4-(3-methylphenyl)-4-piperidinol | CN1CCC(CC1)(O)C1=CC(=CC=C1)C | C13H19NO
